US04138566
A mixture of 1.5 grams of 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one and 1.2 grams of cis-2,6-dimethyl-1-ethylpiperazine is heated at 213° C. in an atmosphere of dry nitrogen for 10 minutes. It is then mixed thoroughly with 25 ml. of anhydrous ethyl ether and suction filtered and this process is repeated. The solid is then dissolved in 200 ml. of anhydrous ethyl ether at room temperature by stirring for 10 minutes. The solution is then stirred with activated charcoal, filtered, and concentrated to a volume of 25 ml. The solid which forms is separated by filtration to give 1-[2-hydroxy-3-(cis-3,5-dimethyl-4-ethyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-cis-3,5-dimethyl-4-ethylpiperazinium hydroxide inner salt as pale pink crystals melting at about 178°-181° C.

reactant | 2-anilino-3-hydroxy-4-(phenylimino)-2-cyclobuten-1-one | 1.5 grams | N(C1=CC=CC=C1)C=1C(C(C1O)=NC1=CC=CC=C1)=O | C16H12N2O2
reactant | cis-2,6-dimethyl-1-ethylpiperazine | 1.2 grams | C[C@@H]1N([C@@H](CNC1)C)CC | C8H18N2
product | 1-[2-hydroxy-3-(cis-3,5-dimethyl-4-ethyl-1-piperazinyl)-4-oxo-2-cyclobuten-1-ylidene]-cis-3,5-dimethyl-4-ethylpiperazinium hydroxide | [OH-].OC=1C(C(C1N1C[C@H](N([C@H](C1)C)CC)C)=O)=[N+]1C[C@H](N([C@H](C1)C)CC)C | InChI=1S/C20H34N4O2.H2O/c1-7-23-13(3)9-21(10-14(23)4)17-19(25)18(20(17)26)22-11-15(5)24(8-2)16(6)12-22;/h13-16H,7-12H2,1-6H3;1H2/t13-,14+,15-,16+;
